US06743794B2
Morpholin-4-yl-acetic Acid Ethyl Ester
To a solution of bromoethylacetate, 3.3 mL (30.0 mmol) in 100 mL of tetrahydrofuran was added 4.14 g (30.0 mmol) of potassium carbonate and 2.6 mL (30.0 mmol) of morpholine. The reaction mixture stirred overnight at rt. and was concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroformn and saturated aqueous NaHCO3. The mixture was washed with saturated NaHCO3, washed with brine, dried over Na2SO4, filtered and concentrated to dryness to give 2.75 g (53%) of the desired product as a tan oil. MS (ion spray) 174.2 (M+).

reactant | bromoethylacetate | BrCCOC(C)=O | C4H7BrO2
reactant | potassium carbonate | 30.0 mmol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 30.0 mmol, 2.6 mL | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | Morpholin-4-yl-acetic Acid Ethyl Ester | 2.75 g, 53% | C(C)OC(CN1CCOCC1)=O | C8H15NO3
